US07205307B2
A capped scintillation vial containing a mixture of 158 mg (1.0 mmol) of 3,4-difluorobenzoic acid, 186 μL (2.0 mmol) of 2-propanethiol and 652 mg (2.0 mmol) of cesium carbonate in 2.5 mL of DMSO was heated at 50 C for 2.5 days. The reaction mixture was cooled to room temperature and partitioned between ethyl ether and 1M HCl. The organic phase was separated and washed with water and brine. The organic layer was dried (MgSO4) and concentrated in vacuo. The concentrated material was dissolved in 6 mL of THF and treated with a solution of 0.52 g (2.0 mmol) of 3-chloroperoxybenzoic acid (66% by weight) in 4 mL of DCM. The reaction mixture was stirred at rt overnight and then concentrated in vacuo. The residue was dissolved in 5% methanol/CHCl3 and absorbed onto SiO2. Chromatography on SiO2 (5% to 7% methanol/CHCl3) afforded 204 mg (83% yield) of 3-fluoro-4-(propane-2-sulfonyl)-benzoic acid as a white solid.

reactant | 3,4-difluorobenzoic acid | 1.0 mmol, 158 mg | FC=1C=C(C(=O)O)C=CC1F | C7H4F2O2
reactant | 2-propanethiol | 2.0 mmol, 186 μL | CC(C)S | C3H8S
reactant | cesium carbonate | 2.0 mmol, 652 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-chloroperoxybenzoic acid | 2.0 mmol, 0.52 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | DMSO | 2.5 mL | CS(=O)C | C2H6OS
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 3-fluoro-4-(propane-2-sulfonyl)-benzoic acid | 204 mg, 83% yield | FC=1C=C(C(=O)O)C=CC1S(=O)(=O)C(C)C | C10H11FO4S
